### PR TITLE
[Merged by Bors] - feat: easier to use FTC-2 versions for `C^1` functions

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean [hunk 1]
```diff
@@ -0,0 +1,111 @@
+/-
+Copyright (c) 2025 Sébastien Gouëzel. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sébastien Gouëzel
+-/
+import Mathlib.MeasureTheory.Integral.IntervalIntegral.FundThmCalculus
+import Mathlib.Analysis.Calculus.ContDiff.Basic
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean:6]: alphabetise imports (optional)

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean [hunk 2]
```diff
@@ -0,0 +1,111 @@
...
+open scoped Topology ENNReal Interval NNReal
+
+variable {ι 𝕜 E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
+  {f : ℝ → E} {a b : ℝ}
+
+namespace intervalIntegral
+
+variable [CompleteSpace E]
+
+/-- Fundamental theorem of calculus-2: If `f : ℝ → E` is `C^1` on `[a, b]`,
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean:28]: lower-case after the colon?
```suggestion
/-- Fundamental theorem of calculus-2: if `f : ℝ → E` is `C^1` on `[a, b]`,

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean [hunk 3]
```diff
@@ -0,0 +1,111 @@
...
+    apply ((h x ⟨hx.1.le, hx.2.le⟩).differentiableWithinAt le_rfl).differentiableAt
+    apply Icc_mem_nhds hx.1 hx.2
+  · have := (h.derivWithin (m := 0) (uniqueDiffOn_Icc h'ab) (by simp)).continuousOn
+    apply (this.intervalIntegrable_of_Icc (μ := volume) hab).congr
+    simp only [hab, uIoc_of_le]
+    rw [← restrict_Ioo_eq_restrict_Ioc]
+    filter_upwards [self_mem_ae_restrict measurableSet_Ioo] with x hx
+    exact derivWithin_of_mem_nhds (Icc_mem_nhds hx.1 hx.2)
+
+/-- Fundamental theorem of calculus-2: If `f : ℝ → E` is `C^1` on `[a, b]`,
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean:46]: Same here
```suggestion
/-- Fundamental theorem of calculus-2: if `f : ℝ → E` is `C^1` on `[a, b]`,

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean [hunk 4]
```diff
@@ -0,0 +1,111 @@
...
+variable [CompleteSpace E]
+
+/-- Fundamental theorem of calculus-2: If `f : ℝ → E` is `C^1` on `[a, b]`,
+then `∫ y in a..b, deriv f y` equals `f b - f a`. -/
+theorem integral_deriv_of_contDiffOn_Icc (h : ContDiffOn ℝ 1 f (Icc a b)) (hab : a ≤ b) :
+    ∫ x in a..b, deriv f x = f b - f a := by
+  rcases hab.eq_or_lt with rfl | h'ab
+  · simp
+  apply integral_eq_sub_of_hasDerivAt_of_le hab
+  · apply h.continuousOn
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean]: Use exact/inline this term? (optional)

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean [hunk 5]
```diff
@@ -0,0 +1,111 @@
...
+  · intro x hx
+    apply DifferentiableAt.hasDerivAt
+    apply ((h x ⟨hx.1.le, hx.2.le⟩).differentiableWithinAt le_rfl).differentiableAt
+    apply Icc_mem_nhds hx.1 hx.2
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean]: Does exact work?

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean [hunk 6]
```diff
@@ -0,0 +1,111 @@
...
+    rw [← restrict_Ioo_eq_restrict_Ioc]
+    filter_upwards [self_mem_ae_restrict measurableSet_Ioo] with x hx
+    exact derivWithin_of_mem_nhds (Icc_mem_nhds hx.1 hx.2)
+
+/-- Fundamental theorem of calculus-2: If `f : ℝ → E` is `C^1` on `[a, b]`,
+then `∫ y in a..b, derivWithin f (Icc a b) y` equals `f b - f a`. -/
+theorem integral_derivWithin_Icc_of_contDiffOn_Icc (h : ContDiffOn ℝ 1 f (Icc a b)) (hab : a ≤ b) :
+    ∫ x in a..b, derivWithin f (Icc a b) x = f b - f a := by
+  rw [← integral_deriv_of_contDiffOn_Icc h hab]
+  rw [integral_of_le hab, integral_of_le hab]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean:51]: You're using `intervalIntegra.integral_of_le` below: I don't mind which way you use; is this intentional?

**Review by grunweg — COMMENTED** [review]
Looks reasonable, thanks!
maintainer delegate

**Comment by grunweg** [comment]
Let's try the labelling again.
maintainer delegate

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean:28]: That's copied from the other file. In English, if there is a full sentence after a colon, it could (should?) start with a capital letter, in theory.

**Comment by sgouezel** [comment]
Thanks for the review!

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/IntervalIntegral/ContDiff.lean:28]: If I understand correctly, English generally asks for lower-case after a colon. (Probably, there are some exceptions; I wouldn't be surprised to see some style manual suggest otherwise. English grammar and orthography are... diverse.)

Given this is the same in other files, I won't block on this.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
